US07700641B2
Synthesis of (5′-chloro-2′-oxo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-1′(2′H)-yl)acetic acid
Following the procedure as described in EXAMPLE 2, and making non-critical variations using ethyl(5′-chloro-2′-oxo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-1′(2′H)-yl)acetate to replace ethyl(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetate, the title compound was obtained in 98% yield as a colorless solid: 1H NMR (300 MHz, CDCl3) δ 7.27-7.25 (m, 1H), 7.16 (d, 1H), 6.72 (d, 1H), 6.54 (s, 1H), 6.39 (s, 1H), 4.93 (dd, 2H), 4.69-4.63 (m, 1H), 4.54-4.51 (m, 3H), 2.95 (t, 2H); 13C NMR (75 MHz, CDCl3) 6177.8, 170.9, 162.1, 162.1, 143.1, 131.7, 130.0, 128.6, 124.7, 119.6, 118.7, 117.0, 106.7, 92.8, 77.2, 72.3, 58.1, 41.2, 28.9; MS (ES−) m/z 370.4 (M−1).

reactant | ethyl(5′-chloro-2′-oxo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-1′(2′H)-yl)acetate | C(C)OC(CN1C(C2(C3=CC(=CC=C13)Cl)C1=C(OC2)C=C2OCCC2=C1)=O)=O | C21H18ClNO5
reactant | ethyl(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetate | C(C)OC(CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O)=O | C20H17NO6
product | (5′-chloro-2′-oxo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-1′(2′H)-yl)acetic acid | 98% yield | ClC=1C=C2C3(C(N(C2=CC1)CC(=O)O)=O)C1=C(OC3)C=C3OCCC3=C1 | C19H14ClNO5
